US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (227 mg, 1.6 mmol) was dissolved in absolute ethanol (20 mL), then triethylamine (335 μL, 2.4 mmol) and 4-(bromomethyl)-3,5-difluoropyridine (350 mg, 1.7 mmol) were added. The mixture was stirred overnight at room temperature. The solvent was removed by evaporation. The residue was triturated in methanol, filtered, washed with water plus diethyl ether, and then dried in vacuo to afford to 2-{[(3,5-difluoropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (179 mg, 42% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.15 (s, 3H), 4.45 (s, 2H), 6.01 (bs, 1H), 8.49 (s, 2H); LRMS (ES+) m/z 270 (100%, M+1).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.6 mmol, 227 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 2.4 mmol, 335 μL | C(C)N(CC)CC | C6H15N
reactant | 4-(bromomethyl)-3,5-difluoropyridine | 1.7 mmol, 350 mg | BrCC1=C(C=NC=C1F)F | C6H4BrF2N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-{[(3,5-difluoropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 179 mg, 42% yield | FC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C)F | C11H9F2N3OS
